US07884207B2
To a solution of tert-butyl 4-oxopiperidine-1-carboxylate (52.65 g, 264 mmol) in nitromethane (21 mL) and ethanol (8 mL) was added a solution of sodium ethoxide in ethanol (2.67 M, 5.0 mL, 13.4 mmol). The mixture was stirred at rt and more ethanol (30 mL) was added. The mixture was sonicated for 15 min, stirred overnight, then sonicated again. To the mixture was added water (400 mL). The solid was isolated by filtration, washed with water (300 mL), and dried to yield tert-butyl 4-hydroxy-4-(nitromethyl)piperidine-1-carboxylate as a white solid, 67.60 g (98%).

reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 264 mmol, 52.65 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | water | 400 mL | O | H2O
reactant | nitromethane | 21 mL | [N+](=O)([O-])C | CH3NO2
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 13.4 mmol, 2.67 M, 5.0 mL | C(C)O | C2H6O
product | tert-butyl 4-hydroxy-4-(nitromethyl)piperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OC(C)(C)C)C[N+](=O)[O-] | C11H20N2O5
